US08614215B2
Intermediate 137: N-(4-{[(3-Chloroquinoxalin-2-yl)]sulfamoyl}phenyl)-2-dimethyamino-acetamide
To a suspension of 4-amino-N-(3-chloroquinoxalin-2-yl)benzenesulfonamide (2 g; 4.5 mmol; 1 eq) in DCM (100 mL) is added dimethylaminoacetyl chloride hydrochloride (710 mg; 4.5 mmol; 1 eq) and N-ethyldiisopropylamine (2.3 mL; 13.5 mmol; 3 eq) and the reaction mixture is stirred at room temperature overnight. To complete the reaction, dimethylaminoacetyl chloride hydrochloride (1.06 g; 6.74 mmol; 1.5 eq) is added and the reaction mixture is allowed to stir another 2 days. The precipitate formed is filtered off and the filtrate is treated with a solution of citric acid. The precipitate in the organic phase is filtered and the aqueous phase is basified with Na2CO3. The product is extracted with DCM and the organic phase is concentrated to near dryness to afford 1.5 g (80%) of the title compound as a yellow powder. HPLC (max plot) 85%; Rt 2.37 min. UPLC/MS (ES+) 420.2, (ES−) 418.3.

reactant | 4-amino-N-(3-chloroquinoxalin-2-yl)benzenesulfonamide | 4.5 mmol, 2 g, 1 eq | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC2=CC=CC=C2N=C1Cl | C14H11ClN4O2S
reactant | dimethylaminoacetyl chloride hydrochloride | 4.5 mmol, 710 mg, 1 eq | Cl.CN(C)CC(=O)Cl
reactant | N-ethyldiisopropylamine | 13.5 mmol, 2.3 mL, 3 eq | C(C)N(C(C)C)C(C)C | C8H19N
reactant | dimethylaminoacetyl chloride hydrochloride | 6.74 mmol, 1.06 g, 1.5 eq | Cl.CN(C)CC(=O)Cl
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(4-{[(3-Chloroquinoxalin-2-yl)]sulfamoyl}phenyl)-2-dimethyamino-acetamide | 1.5 g, 80% | ClC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC=C(C=C1)NC(CN(C)C)=O | C18H18ClN5O3S
